US05258478
4'-vinyl-3-hydroxyflavone. 2-hydroxyacetophenone (Aldrich) was used as received. Ethyl alcohol was distilled prior to use. 4-vinyl benzaldehyde was synthesized using the procedure described in Example 1(a).

reactant | 4'-vinyl-3-hydroxyflavone | C(=C)C1=CC=C(C=2OC3=CC=CC=C3C(C2O)=O)C=C1 | C17H12O3
reactant | 2-hydroxyacetophenone | OCC(=O)C1=CC=CC=C1 | C8H8O2
product | 4-vinyl benzaldehyde | C(=C)C1=CC=C(C=O)C=C1 | C9H8O
